US09428528B2
Step 4 Preparation of 2,2-Difluoro-N-((1S,2R)-1-fluoromethyl-2-hydroxy-2-{4-[6-(2,2,2-trifluoro-1-methylamino-ethyl)-pyridin-3-yl]-phenyl}-ethyl)-acetamide
To a solution of 2,2-Difluoro-1-((4S,5R)-4-fluoromethyl-2,2-dimethyl-5-{4-[6-(2,2,2-trifluoro-1-methylamino-ethyl)-pyridin-3-yl]-phenyl}-oxazolidin-3-yl) ethanone (0.12 g, 0.235 mmol) in CH2Cl2 (2 mL) is added trifluroacetic acid (0.5 mL) at 0° C. then is stirred to room temperature for 2 hours. Reaction solvent evaporated in vacuo then diluted with sodium bicarbonate solution and extract with ethyl acetate. Organic layer is dried over sodium sulphate, solvent is evaporated in vacuo and purified by combiflash eluting in 5% Methanol in CH2Cl2 to afford the title compound (0.028 g). 1H-NMR (400 MHz, DMSO) δ: 2.25 (d, J=5.84 Hz, 3H), 3.00-3.04 (m, 1H), 4.31-4.35 (m, 1.5H), 4.41-4.46 (m, 1.5H), 4.55-4.56 (m, 0.5H), 4.65-4.68 (m, 0.5H), 4.90 (m, 1H), 5.93 (d, J=4.36 Hz, 1H), 6.19 (d, J=53.72 Hz, 1H), 7.46 (d, J=8.32 Hz, 2H), 7.95-7.98 (dd, J1=1.96 HzHz, J2=8.32 Hz, 1H), 8.03 (d, J=8.32 Hz, 1H), 8.06 (d, J=8.48 Hz, 2H), 8.71 (d, J=1.88 Hz, 1H), 8.84 (d, J=8.72 Hz, 1H). LC-MS (m/z): [M+H]=436.0.

reactant | 2,2-Difluoro-1-((4S,5R)-4-fluoromethyl-2,2-dimethyl-5-{4-[6-(2,2,2-trifluoro-1-methylamino-ethyl)-pyridin-3-yl]-phenyl}-oxazolidin-3-yl) ethanone | 0.235 mmol, 0.12 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)C(C(F)(F)F)NC)(C)C)F | C22H23F6N3O2
reactant | trifluroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2,2-Difluoro-N-((1S,2R)-1-fluoromethyl-2-hydroxy-2-{4-[6-(2,2,2-trifluoro-1-methylamino-ethyl)-pyridin-3-yl]-phenyl}-ethyl)-acetamide | 0.028 g | FC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)C=1C=NC(=CC1)C(C(F)(F)F)NC)O)CF)F | C19H19F6N3O2
